US04260619
The starting material is prepared as follows: The solution of 0.19 g of 2-(2-aminopropyl)-5-pyridinol hydrochloride in 10 ml of anhydrous ethanol is combined with 0.2 ml of 5 N ethereal hydrogen chloride and evaporated, to yield the 2-(2-aminopropyl)-5-pyridinol dihydrochloride melting at 125°-128° with decomposition.

reactant | 2-(2-aminopropyl)-5-pyridinol hydrochloride | 0.19 g | Cl.NC(CC1=NC=C(C=C1)O)C
reactant | hydrogen chloride | 5 N, 0.2 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(2-aminopropyl)-5-pyridinol dihydrochloride | Cl.Cl.NC(CC1=NC=C(C=C1)O)C | InChI=1S/C8H12N2O.2ClH/c1-6(9)4-7-2-3-8(11)5-10-7;;/h2-3,5-6,11H,4,9H2,1H3;2*1H
